US04794120
4.1. Ethyl 3-bromo-3-phenyl-2-oxopropionate
39.3 g (0.08 mole) of pyrrolidone hydrotribromide (PHT) are introduced portionwise at approximately 10° C. into a solution of 13.9 g (0.072 mole) of ethyl 2-oxo-3-phenylpropanoate (described by E. L. Eliel et al. J. Org. Chem. 37, 505, 1972) in 250 ml of tetrahydrofuran (THF) and 6.1 g (0.072 mole) of 2-pyrrolidone. The temperature of the mixture is allowed to return to 20° C. and the mixture is then heated to 50° C. for 1 h. The mixture is cooled and then poured onto ice. The mixture is extracted with ether and the organic phase washed with water, dried with MgSO4, filtered and evaporated. 18 g of oil are obtained, which is used in the crude state for the next stage of the reaction.

reactant | pyrrolidone hydrotribromide | 0.08 mole, 39.3 g | C1CC(=O)NC1.Br[Br-]Br
reactant | ethyl 2-oxo-3-phenylpropanoate | 0.072 mole, 13.9 g | O=C(C(=O)OCC)CC1=CC=CC=C1 | C11H12O3
reactant | 2-pyrrolidone | 0.072 mole, 6.1 g | N1C(CCC1)=O | C4H7NO
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Ethyl 3-bromo-3-phenyl-2-oxopropionate | 18 g | BrC(C(C(=O)OCC)=O)C1=CC=CC=C1 | C11H11BrO3
